US06458772B1
b) 2-amino-2-methyl-1-(N-benzyloxycarbonyl-L-valyloxy)-propane
To a solution of 2-(N-(tert.-butyloxycarbonyl)-amino)-2-methyl-1-(N-benzyloxycarbonyl-L-valyloxy)-propane (10 g, 23 mmole) in dichloromethane (150 ml) was added trifluoroacetic acid (30 ml) and the mixture was stirred for 1 hour at room temperature. The solution was evaporated under reduced pressure and 10% sodium carbonate solution was added. The product was extracted four times with dichloromethane, dried with sodium sulfate and evaporated under reduced pressure. The product was isolated by silica gel column chromatography with dichloromethane/methanol. Yield: 3.0 g=40% (crude)

reactant | 2-(N-(tert.-butyloxycarbonyl)-amino)-2-methyl-1-(N-benzyloxycarbonyl-L-valyloxy)-propane | 23 mmole, 10 g | C(C)(C)(C)OC(=O)NC(COC([C@@H](NC(=O)OCC1=CC=CC=C1)C(C)C)=O)(C)C | C22H34N2O6
reactant | trifluoroacetic acid | 30 ml | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloromethane | 150 ml | ClCCl | CH2Cl2
product | 2-amino-2-methyl-1-(N-benzyloxycarbonyl-L-valyloxy)-propane | NC(COC([C@@H](NC(=O)OCC1=CC=CC=C1)C(C)C)=O)(C)C | C17H26N2O4
